US08022062B2
In a sealed tube, add tris(dibenzylideneacetone)dipalladium(0) (3.44 mg, 0.00376 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (4.98 mg, 0.00752 mmol) to a mixture of 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (242 mg, 0.501 mmol), sodium tert-butoxide (96 mg, 1.0 mmol), 18-crown-6 (13 mg, 0.050 mmol) and piperidine (496 μL, 5.01 mmol) in toluene (3 mL). Flush the mixture with nitrogen and heat overnight. Cool to ambient temperature, dilute with water and extract three times with EtOAc. Dry over anhydrous Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil (179 mg, 73%).

reactant | 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.501 mmol, 242 mg | BrC=1C=CC(=NC1)CSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C21H24BrClN2O2S
reactant | sodium tert-butoxide | 1.0 mmol, 96 mg | CC(C)([O-])C.[Na+]
reactant | 18-crown-6 | 0.050 mmol, 13 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | piperidine | 5.01 mmol, 496 μL | N1CCCCC1 | C5H11N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00376 mmol, 3.44 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.00752 mmol, 4.98 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 3-tert-butoxycarbonyl-7-chloro-6-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 179 mg, 73% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=N2)N2CCCCC2 | C26H34ClN3O2S
